US06048885
n-Propanol (2 ml) and methoxyamine hydrochloride (0.50 g, 6 mmol) were added to 2-(2,5-dimethylphenoxymethyl)phenyl isoxazol-3-yl ketone (0.64 g, 2 mmol), and the mixture was stirred under reflux for 17 hours. After completion of the reaction, water (100 ml) was added, the mixture was extracted with dichloromethane. The dichloromethane layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel chromatography (benzene/n-hexane) to give 2-(2,5-dimethylphenoxymethyl)phenyl isoxazol-3-yl ketone O-methyloxime (a mixture of isomers A/B) (0.55 g, 81.8%) as colorless crystals. mp. 104-108° C.

reactant | n-Propanol | 2 ml | C(CC)O | C3H8O
reactant | methoxyamine hydrochloride | 6 mmol, 0.50 g | Cl.CON
reactant | 2-(2,5-dimethylphenoxymethyl)phenyl isoxazol-3-yl ketone | 2 mmol, 0.64 g | O1N=C(C=C1)C(=O)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C19H17NO3
solvent | water | 100 ml | O | H2O
product | 2-(2,5-dimethylphenoxymethyl)phenyl isoxazol-3-yl ketone O-methyloxime | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C1=NOC=C1 | C20H20N2O3
